* Auto TB for INV0_LVT
.include /mnt/e/MyResearch/Analog_blocks/models/sky130A/libs.tech/ngspice/sky130.lib.spice
.option gmin=1e-12
* PDK-swapped for SKY130 ngspice
.include /mnt/e/MyResearch/Analog_blocks/models/sky130A/libs.tech/ngspice/sky130.lib.spice
.option gmin=1e-12
** label = ADC
.subckt INV0_LVT i zn vdd vss
xm0 zn i vss vss lvtnfet w=w0 l=l0
xm1 zn i vdd vdd lvtpfet w=w1 l=l0
.ends INV0_LVT

.subckt DAC_SWITCHES dac<9> dac<8> dac<7> dac<6> dac<5> dac<4> dac<3> dac<2> dac<1> gnd in<9> in<8> in<7> in<6> in<5> in<4> in<3> in<2> in<1> vcm vdd vrefn vrefp
xi5 in<5> dac<5> vrefp vrefn INV0_LVT
xi3 in<7> dac<7> vrefp vrefn INV0_LVT
xi4 in<6> dac<6> vrefp vrefn INV0_LVT
xi6 in<2> dac<2> vrefp vrefn INV0_LVT
xi7 in<3> dac<3> vrefp vrefn INV0_LVT
xi10 in<8> net07 vdd gnd INV0_LVT
xi9 in<1> dac<1> vrefp vcm INV0_LVT
xi8 in<4> dac<4> vrefp vrefn INV0_LVT
xi0 in<9> net91 vdd gnd INV0_LVT
xi1 net91 dac<9> vrefp vrefn INV0_LVT
xi2 net07 dac<8> vrefp vrefn INV0_LVT
.ends DAC_SWITCHES

.subckt SAMPLE_NETWORK comp_in gnd in<9> in<8> in<7> in<6> in<5> in<4> in<3> in<2> in<1> vcm vdd vrefn vrefp
xi2 dac<9> dac<8> dac<7> dac<6> dac<5> dac<4> dac<3> dac<2> dac<1> gnd in<9> in<8> in<7> in<6> in<5> in<4> in<3> in<2> in<1> vcm vdd vrefn vrefp DAC_SWITCHES
.ends SAMPLE_NETWORK

.subckt COMPARATOR clk crossn crossp gnd intern interp outm outp vdd _net1 _net0
xm1 gnd interp gnd gnd sky130_fd_pr__nfet_01v8 w=w2 l=l1
xm0 gnd intern gnd gnd sky130_fd_pr__nfet_01v8 w=w2 l=l1
xm16 outm crossp gnd gnd lvtnfet w=w3 l=l0
xm17 outp crossn gnd gnd lvtnfet w=w3 l=l0
xm26 net050 clk gnd gnd lvtnfet w=w4 l=l0
xm4 crossn crossp intern gnd lvtnfet w=w3 l=l0
xm3 crossp crossn interp gnd lvtnfet w=w3 l=l0
xm25 interp _net0 net050 gnd lvtnfet w=w5 l=l0
xm24 intern _net1 net050 gnd lvtnfet w=w5 l=l0
xm8 outm crossp vdd vdd lvtpfet w=w4 l=l0
xm18 intern clk vdd vdd lvtpfet w=w3 l=l0
xm15 outp crossn vdd vdd lvtpfet w=w4 l=l0
xm19 interp clk vdd vdd lvtpfet w=w3 l=l0
xm10 crossn clk vdd vdd lvtpfet w=w3 l=l0
xm12 crossp clk vdd vdd lvtpfet w=w3 l=l0
xm14 crossn crossp vdd vdd lvtpfet w=w4 l=l0
xm13 crossp crossn vdd vdd lvtpfet w=w4 l=l0
.ends COMPARATOR

.subckt INVD0BWP i zn vdd vss
m0 zn i vss vss sky130_fd_pr__nfet_01v8 w=w0 l=l0
m1 zn i vdd vdd sky130_fd_pr__pfet_01v8 w=w1 l=l0
.ends INVD0BWP

.subckt LATCH clk gnd inm inp outm outp vcc
xi1 net67 outp vcc gnd INVD0BWP
xi0 net64 outm vcc gnd INVD0BWP
xm10 net64 clk vcc vcc sky130_fd_pr__pfet_01v8 w=w6 l=l0
xm9 net67 clk vcc vcc sky130_fd_pr__pfet_01v8 w=w6 l=l0
xm13 net67 net64 vcc vcc sky130_fd_pr__pfet_01v8 w=w3 l=l0
xm4 net64 net67 vcc vcc sky130_fd_pr__pfet_01v8 w=w3 l=l0
xm8 net65 clk vcc vcc sky130_fd_pr__pfet_01v8 w=w6 l=l0
xm12 net012 clk vcc vcc sky130_fd_pr__pfet_01v8 w=w6 l=l0
xm11 net60 clk gnd gnd sky130_fd_pr__nfet_01v8 w=w6 l=l0
xm0 net65 inp net60 gnd sky130_fd_pr__nfet_01v8 w=w6 l=l0
xm2 net67 net64 net65 gnd sky130_fd_pr__nfet_01v8 w=w6 l=l0
xm3 net64 net67 net012 gnd sky130_fd_pr__nfet_01v8 w=w6 l=l0
xm1 net012 inm net60 gnd sky130_fd_pr__nfet_01v8 w=w6 l=l0
.ends LATCH

.subckt SAR_LOGIC_2ND_STAGE comp compb gnd q<9> q<8> q<7> q<6> q<5> q<4> q<3> q<2> q<1> qb<9> qb<8> qb<7> qb<6> qb<5> qb<4> qb<3> qb<2> qb<1> s<10> s<9> s<8> s<7> s<6> s<5> s<4> s<3> s<2> s<1> vdd q<0> qb<0> s<0>
xi1<9> s<9> gnd compb comp net03<0> net04<0> vdd LATCH
xi1<8> s<8> gnd compb comp net03<1> net04<1> vdd LATCH
xi1<7> s<7> gnd compb comp net03<2> net04<2> vdd LATCH
xi1<6> s<6> gnd compb comp net03<3> net04<3> vdd LATCH
xi1<5> s<5> gnd compb comp net03<4> net04<4> vdd LATCH
xi1<4> s<4> gnd compb comp net03<5> net04<5> vdd LATCH
xi1<3> s<3> gnd compb comp net03<6> net04<6> vdd LATCH
xi1<2> s<2> gnd compb comp net03<7> net04<7> vdd LATCH
xi1<1> s<1> gnd compb comp net03<8> net04<8> vdd LATCH
xi0 s<10> gnd compb comp qb<9> q<9> vdd LATCH
xi2<9> net04<0> qb<8> vdd gnd INVD0BWP
xi2<8> net04<1> qb<7> vdd gnd INVD0BWP
xi2<7> net04<2> qb<6> vdd gnd INVD0BWP
xi2<6> net04<3> qb<5> vdd gnd INVD0BWP
xi2<5> net04<4> qb<4> vdd gnd INVD0BWP
xi2<4> net04<5> qb<3> vdd gnd INVD0BWP
xi2<3> net04<6> qb<2> vdd gnd INVD0BWP
xi2<2> net04<7> qb<1> vdd gnd INVD0BWP
xi2<1> net04<8> qb<0> vdd gnd INVD0BWP
xi3<9> net03<0> q<8> vdd gnd INVD0BWP
xi3<8> net03<1> q<7> vdd gnd INVD0BWP
xi3<7> net03<2> q<6> vdd gnd INVD0BWP
xi3<6> net03<3> q<5> vdd gnd INVD0BWP
xi3<5> net03<4> q<4> vdd gnd INVD0BWP
xi3<4> net03<5> q<3> vdd gnd INVD0BWP
xi3<3> net03<6> q<2> vdd gnd INVD0BWP
xi3<2> net03<7> q<1> vdd gnd INVD0BWP
xi3<1> net03<8> q<0> vdd gnd INVD0BWP
.ends SAR_LOGIC_2ND_STAGE

.subckt DFSNQD1BWP d cp sdn q vdd vss
m0 net44 net25 vss vss sky130_fd_pr__nfet_01v8 w=w7 l=l0
m1 net11 cp vss vss sky130_fd_pr__nfet_01v8 w=w0 l=l0
m2 q net13 vss vss sky130_fd_pr__nfet_01v8 w=w7 l=l0
m3 net7 sdn net44 vss sky130_fd_pr__nfet_01v8 w=w7 l=l0
m4 net37 net13 vss vss sky130_fd_pr__nfet_01v8 w=w6 l=l0
m5 net33 sdn net37 vss sky130_fd_pr__nfet_01v8 w=w6 l=l0
mi20 net7 net83 net63 vss sky130_fd_pr__nfet_01v8 w=w7 l=l0
mi23 net25 net83 net5 vss sky130_fd_pr__nfet_01v8 w=w6 l=l0
mi22 net33 net11 net63 vss sky130_fd_pr__nfet_01v8 w=w6 l=l0
mi21 net25 d net20 vss sky130_fd_pr__nfet_01v8 w=w7 l=l0
m6 net13 net63 vss vss sky130_fd_pr__nfet_01v8 w=w7 l=l0
mi19 net20 net11 vss vss sky130_fd_pr__nfet_01v8 w=w7 l=l0
mi24 net5 net7 vss vss sky130_fd_pr__nfet_01v8 w=w6 l=l0
m7 net83 net11 vss vss sky130_fd_pr__nfet_01v8 w=w0 l=l0
m8 net11 cp vdd vdd sky130_fd_pr__pfet_01v8 w=w1 l=l0
mi33 net33 net83 net63 vdd sky130_fd_pr__pfet_01v8 w=w6 l=l0
m9 net7 sdn vdd vdd sky130_fd_pr__pfet_01v8 w=w8 l=l0
m10 q net13 vdd vdd sky130_fd_pr__pfet_01v8 w=w8 l=l0
mi34 net25 net11 net96 vdd sky130_fd_pr__pfet_01v8 w=w6 l=l0
mi30 net7 net11 net63 vdd sky130_fd_pr__pfet_01v8 w=w9 l=l0
m11 net7 net25 vdd vdd sky130_fd_pr__pfet_01v8 w=w8 l=l0
mi28 net81 net83 vdd vdd sky130_fd_pr__pfet_01v8 w=w10 l=l0
m12 net83 net11 vdd vdd sky130_fd_pr__pfet_01v8 w=w1 l=l0
m13 net33 net13 vdd vdd sky130_fd_pr__pfet_01v8 w=w6 l=l0
mi35 net96 net7 vdd vdd sky130_fd_pr__pfet_01v8 w=w6 l=l0
m14 net33 sdn vdd vdd sky130_fd_pr__pfet_01v8 w=w6 l=l0
m15 net13 net63 vdd vdd sky130_fd_pr__pfet_01v8 w=w8 l=l0
mi26 net25 d net81 vdd sky130_fd_pr__pfet_01v8 w=w10 l=l0
.ends DFSNQD1BWP

.subckt AN3D0BWP a1 a2 a3 z vdd vss
m0 net13 a3 vss vss sky130_fd_pr__nfet_01v8 w=w0 l=l0
m1 z net11 vss vss sky130_fd_pr__nfet_01v8 w=w0 l=l0
m2 net5 a2 net13 vss sky130_fd_pr__nfet_01v8 w=w0 l=l0
m3 net11 a1 net5 vss sky130_fd_pr__nfet_01v8 w=w0 l=l0
m4 z net11 vdd vdd sky130_fd_pr__pfet_01v8 w=w1 l=l0
m5 net11 a3 vdd vdd sky130_fd_pr__pfet_01v8 w=w1 l=l0
m6 net11 a1 vdd vdd sky130_fd_pr__pfet_01v8 w=w1 l=l0
m7 net11 a2 vdd vdd sky130_fd_pr__pfet_01v8 w=w1 l=l0
.ends AN3D0BWP

.subckt AN2D0BWP a1 a2 z vdd vss
m0 z net5 vdd vdd sky130_fd_pr__pfet_01v8 w=w1 l=l0
m1 net5 a1 vdd vdd sky130_fd_pr__pfet_01v8 w=w1 l=l0
m2 net5 a2 vdd vdd sky130_fd_pr__pfet_01v8 w=w1 l=l0
m3 z net5 vss vss sky130_fd_pr__nfet_01v8 w=w0 l=l0
m4 net17 a2 vss vss sky130_fd_pr__nfet_01v8 w=w0 l=l0
m5 net5 a1 net17 vss sky130_fd_pr__nfet_01v8 w=w0 l=l0
.ends AN2D0BWP

.subckt DFNCND1BWP d cpn cdn q qn vdd vss
m0 net49 cdn vdd vdd sky130_fd_pr__pfet_01v8 w=w11 l=l0
mi43 net53 net9 vdd vdd sky130_fd_pr__pfet_01v8 w=w6 l=l0
m1 net49 net20 vdd vdd sky130_fd_pr__pfet_01v8 w=w11 l=l0
mi6 net5 d net1 vdd sky130_fd_pr__pfet_01v8 w=w10 l=l0
m2 net11 net67 vdd vdd sky130_fd_pr__pfet_01v8 w=w1 l=l0
m3 net37 net49 vdd vdd sky130_fd_pr__pfet_01v8 w=w1 l=l0
m4 qn net37 vdd vdd sky130_fd_pr__pfet_01v8 w=w8 l=l0
m5 net67 cpn vdd vdd sky130_fd_pr__pfet_01v8 w=w1 l=l0
m6 q net49 vdd vdd sky130_fd_pr__pfet_01v8 w=w8 l=l0
mi44 net53 cdn vdd vdd sky130_fd_pr__pfet_01v8 w=w6 l=l0
mi17 net37 net67 net20 vdd sky130_fd_pr__pfet_01v8 w=w6 l=l0
m7 net9 net5 vdd vdd sky130_fd_pr__pfet_01v8 w=w12 l=l0
mi16 net9 net11 net20 vdd sky130_fd_pr__pfet_01v8 w=w12 l=l0
mi45 net5 net11 net53 vdd sky130_fd_pr__pfet_01v8 w=w6 l=l0
mi7 net1 net67 vdd vdd sky130_fd_pr__pfet_01v8 w=w10 l=l0
m8 qn net37 vss vss sky130_fd_pr__nfet_01v8 w=w7 l=l0
m9 net37 net49 vss vss sky130_fd_pr__nfet_01v8 w=w0 l=l0
mi4 net109 net11 vss vss sky130_fd_pr__nfet_01v8 w=w7 l=l0
mi18 net37 net11 net20 vss sky130_fd_pr__nfet_01v8 w=w6 l=l0
m10 net49 net20 net104 vss sky130_fd_pr__nfet_01v8 w=w11 l=l0
m11 net104 cdn vss vss sky130_fd_pr__nfet_01v8 w=w11 l=l0
m12 net9 net5 vss vss sky130_fd_pr__nfet_01v8 w=w13 l=l0
mi15 net9 net67 net20 vss sky130_fd_pr__nfet_01v8 w=w13 l=l0
mi5 net5 d net109 vss sky130_fd_pr__nfet_01v8 w=w7 l=l0
m13 net67 cpn vss vss sky130_fd_pr__nfet_01v8 w=w0 l=l0
mi49 net77 cdn vss vss sky130_fd_pr__nfet_01v8 w=w6 l=l0
mi48 net64 net9 net77 vss sky130_fd_pr__nfet_01v8 w=w6 l=l0
m14 q net49 vss vss sky130_fd_pr__nfet_01v8 w=w7 l=l0
m15 net11 net67 vss vss sky130_fd_pr__nfet_01v8 w=w0 l=l0
mi47 net5 net67 net64 vss sky130_fd_pr__nfet_01v8 w=w6 l=l0
.ends DFNCND1BWP

.subckt SAR_LOGIC_1ST_STAGE_CLKGATING clk clksb gnd s<10> s<9> s<8> s<7> s<6> s<5> s<4> s<3> s<2> s<1> s<0> vdd sb<1>
xi4 net2 net3 net6 net1 net5 net4 DFSNQD1BWP
xi16<10> clkb s<10> sb<9> clkff<9> vdd gnd AN3D0BWP
xi16<9> clkb s<9> sb<8> clkff<8> vdd gnd AN3D0BWP
xi16<8> clkb s<8> sb<7> clkff<7> vdd gnd AN3D0BWP
xi16<7> clkb s<7> sb<6> clkff<6> vdd gnd AN3D0BWP
xi16<6> clkb s<6> sb<5> clkff<5> vdd gnd AN3D0BWP
xi16<5> clkb s<5> sb<4> clkff<4> vdd gnd AN3D0BWP
xi16<4> clkb s<4> sb<3> clkff<3> vdd gnd AN3D0BWP
xi16<3> clkb s<3> sb<2> clkff<2> vdd gnd AN3D0BWP
xi16<2> clkb s<2> sb<1> clkff<1> vdd gnd AN3D0BWP
xi16<1> clkb s<1> sb<0> clkff<0> vdd gnd AN3D0BWP
xi19 clk clkb vdd gnd INVD0BWP
xi13 clkb sb<10> clkff<10> vdd gnd AN2D0BWP
xi18<10> s<10> clkff<9> clksb s<9> sb<9> vdd gnd DFNCND1BWP
xi18<9> s<9> clkff<8> clksb s<8> sb<8> vdd gnd DFNCND1BWP
xi18<8> s<8> clkff<7> clksb s<7> sb<7> vdd gnd DFNCND1BWP
xi18<7> s<7> clkff<6> clksb s<6> sb<6> vdd gnd DFNCND1BWP
xi18<6> s<6> clkff<5> clksb s<5> sb<5> vdd gnd DFNCND1BWP
xi18<5> s<5> clkff<4> clksb s<4> sb<4> vdd gnd DFNCND1BWP
xi18<4> s<4> clkff<3> clksb s<3> sb<3> vdd gnd DFNCND1BWP
xi18<3> s<3> clkff<2> clksb s<2> sb<2> vdd gnd DFNCND1BWP
xi18<2> s<2> clkff<1> clksb s<1> sb<1> vdd gnd DFNCND1BWP
xi18<1> s<1> clkff<0> clksb s<0> sb<0> vdd gnd DFNCND1BWP
xi17 vdd clkff<10> clksb s<10> sb<10> vdd gnd DFNCND1BWP
.ends SAR_LOGIC_1ST_STAGE_CLKGATING

.subckt SAR_LOGIC clk clksb gnd outn outp q<9> q<8> q<7> q<6> q<5> q<4> q<3> q<2> q<1> qb<9> qb<8> qb<7> qb<6> qb<5> qb<4> qb<3> qb<2> qb<1> vdd q<0> qb<0> s<0> sb<1>
xi1 outp outn gnd q<9> q<8> q<7> q<6> q<5> q<4> q<3> q<2> q<1> qb<9> qb<8> qb<7> qb<6> qb<5> qb<4> qb<3> qb<2> qb<1> s<10> s<9> s<8> s<7> s<6> s<5> s<4> s<3> s<2> s<1> vdd q<0> qb<0> s<0> SAR_LOGIC_2ND_STAGE
xi0 clk clksb gnd s<10> s<9> s<8> s<7> s<6> s<5> s<4> s<3> s<2> s<1> s<0> vdd sb<1> SAR_LOGIC_1ST_STAGE_CLKGATING
.ends SAR_LOGIC

.subckt SAMPLER clks_boost gnd vin vout
xm0 vout clks_boost vin gnd lvtnfet w=w3 l=l0
.ends SAMPLER

.subckt DFCND1BWP d cp cdn q qn vdd vss
m0 qn net33 vss vss sky130_fd_pr__nfet_01v8 w=w7 l=l0
mi4 net53 net5 vss vss sky130_fd_pr__nfet_01v8 w=w7 l=l0
mi18 net33 net5 net79 vss sky130_fd_pr__nfet_01v8 w=w6 l=l0
m1 net95 net79 net9 vss sky130_fd_pr__nfet_01v8 w=w11 l=l0
m2 net81 net25 vss vss sky130_fd_pr__nfet_01v8 w=w13 l=l0
mi15 net81 net67 net79 vss sky130_fd_pr__nfet_01v8 w=w13 l=l0
m3 net33 net95 vss vss sky130_fd_pr__nfet_01v8 w=w0 l=l0
m4 net67 net5 vss vss sky130_fd_pr__nfet_01v8 w=w0 l=l0
mi5 net25 d net53 vss sky130_fd_pr__nfet_01v8 w=w7 l=l0
mi49 net20 cdn vss vss sky130_fd_pr__nfet_01v8 w=w6 l=l0
mi48 net17 net81 net20 vss sky130_fd_pr__nfet_01v8 w=w6 l=l0
m5 q net95 vss vss sky130_fd_pr__nfet_01v8 w=w7 l=l0
m6 net9 cdn vss vss sky130_fd_pr__nfet_01v8 w=w11 l=l0
m7 net5 cp vss vss sky130_fd_pr__nfet_01v8 w=w0 l=l0
mi47 net25 net67 net17 vss sky130_fd_pr__nfet_01v8 w=w6 l=l0
m8 net33 net95 vdd vdd sky130_fd_pr__pfet_01v8 w=w1 l=l0
m9 net5 cp vdd vdd sky130_fd_pr__pfet_01v8 w=w1 l=l0
m10 net67 net5 vdd vdd sky130_fd_pr__pfet_01v8 w=w1 l=l0
mi43 net72 net81 vdd vdd sky130_fd_pr__pfet_01v8 w=w6 l=l0
mi6 net25 d net104 vdd sky130_fd_pr__pfet_01v8 w=w10 l=l0
m11 qn net33 vdd vdd sky130_fd_pr__pfet_01v8 w=w8 l=l0
m12 q net95 vdd vdd sky130_fd_pr__pfet_01v8 w=w8 l=l0
mi44 net72 cdn vdd vdd sky130_fd_pr__pfet_01v8 w=w6 l=l0
mi17 net33 net67 net79 vdd sky130_fd_pr__pfet_01v8 w=w6 l=l0
m13 net81 net25 vdd vdd sky130_fd_pr__pfet_01v8 w=w12 l=l0
m14 net95 net79 vdd vdd sky130_fd_pr__pfet_01v8 w=w11 l=l0
mi16 net81 net5 net79 vdd sky130_fd_pr__pfet_01v8 w=w12 l=l0
mi45 net25 net5 net72 vdd sky130_fd_pr__pfet_01v8 w=w6 l=l0
mi7 net104 net67 vdd vdd sky130_fd_pr__pfet_01v8 w=w10 l=l0
m15 net95 cdn vdd vdd sky130_fd_pr__pfet_01v8 w=w11 l=l0
.ends DFCND1BWP

.subckt NR2D0BWP a1 a2 zn vdd vss
m0 zn a2 vss vss sky130_fd_pr__nfet_01v8 w=w0 l=l0
m1 zn a1 vss vss sky130_fd_pr__nfet_01v8 w=w0 l=l0
m2 net13 a2 vdd vdd sky130_fd_pr__pfet_01v8 w=w1 l=l0
m3 zn a1 net13 vdd sky130_fd_pr__pfet_01v8 w=w1 l=l0
.ends NR2D0BWP

.subckt COUNTER clksb ctrl d<1> d<0> gnd in vdd
xi1 net9 d<0> clksb d<1> net9 vdd gnd DFCND1BWP
xi0 net6 net12 clksb d<0> net6 vdd gnd DFCND1BWP
xi2 in ctrl net12 vdd gnd NR2D0BWP
.ends COUNTER

.subckt ADC_CORE clkc clks gnd inn inp q<9> q<8> q<7> q<6> q<5> q<4> q<3> q<2> q<1> q<0> qb<9> qb<8> qb<7> qb<6> qb<5> qb<4> qb<3> qb<2> qb<1> qb<0> vdd bypass est_delay vcm vrefn vrefp
xi1 cpinn gnd q<9> q<8> qb<7> qb<6> qb<5> qb<4> qb<3> qb<2> qb<1> vcm vdd vrefn vrefp SAMPLE_NETWORK
xi0 cpinp gnd qb<9> qb<8> q<7> q<6> q<5> q<4> q<3> q<2> q<1> vcm vdd vrefn vrefp SAMPLE_NETWORK
xi2 clkc net3 net4 gnd net1 net2 coutn coutp vdd cpinp cpinn COMPARATOR
xi3 clkc clksb gnd coutn coutp q<9> q<8> q<7> q<6> q<5> q<4> q<3> q<2> q<1> qb<9> qb<8> qb<7> qb<6> qb<5> qb<4> qb<3> qb<2> qb<1> vdd q<0> qb<0> est_delay est SAR_LOGIC
e0 clksb gnd VCVS vdd clks 1
xi11 clks net05 inp cpinp SAMPLER
xi12 clks net06 inn cpinn SAMPLER
xi13 clksb est_delay estimator<1> estimator<0> gnd coutp vdd COUNTER
.ends ADC_CORE



Vdd vdd 0 DC 1.8
Vss vss 0 DC 0
X1 i zn vdd vss INV0_LVT
.op
.control
op
.endc
.end
